US04665202
A solution of 1.0 g 4-chloro-3-formyl-flav-3-ene and 0.68 g sarcosin ethyl ester hydrochloride in 10 ml pyridine is cooled at 10°-15° C. One adds 0.97 g triethylamine and warms at 55° C. for 60 hours. After cooling to 2° C., 0.74 ml 50% potassium hydroxide solution is added. After 10 minutes, one adds 37 ml water. The mixture is extracted with dichloromethane, dried over magnesium sulfate and evaporated. The residue is purified by column chromatography on silica gel using dichloromethane as eluant. The solid is crystallized in dichloromethane. Pure 3-formyl-4-(N-methyl-N-ethoxycarbonylmethylamino)flav-3-ene is obtained as yellow crystals; m.p. 158°-159° C.

reactant | 4-chloro-3-formyl-flav-3-ene | 1.0 g | ClC1=C(C(OC2=CC=CC=C12)C1=CC=CC=C1)C=O | C16H11ClO2
reactant | sarcosin ethyl ester hydrochloride | 0.68 g | Cl.C(C)OC(CNC)=O
reactant | triethylamine | 0.97 g | C(C)N(CC)CC | C6H15N
reactant | potassium hydroxide | 0.74 ml | [OH-].[K+]
solvent | pyridine | 10 ml | N1=CC=CC=C1 | C5H5N
solvent | water | 37 ml | O | H2O
product | 3-formyl-4-(N-methyl-N-ethoxycarbonylmethylamino)flav-3-ene | C(=O)C=1C(OC2=CC=CC=C2C1N(CC(=O)OCC)C)C1=CC=CC=C1 | C21H21NO4
